US05670505
To a stirred solution of (2R)-2-(benzo[b]thiophen-3-yl-methyl)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]piperazine (0.75 g) in dichloromethane (8 ml) was added dropwise 1-chloroethyl chloroformate (0.19 ml) at ice-bath temperature. The resulting mixture was stirred at room temperature for 1 hour and then at reflux temperature for 5 hours. The reaction mixture was evaporated under reduced pressure. Methanol (5 ml) was added to the residue and the whole mixture was heated under refluxing for 1 hour. The mixture was concentrated in vacuo and the residue was partitioned between aqueous sodium bicarbonate solution (10 ml) and ethyl acetate (20 ml). The organic layer was separated, washed with brine and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the residue was treated with 4N hydrogen chloride in ethyl acetate solution to afford (2R)-2-(benzo[b]thiophen-3-yl-methyl)-1-[3,5-bis(trifluoromethyl)benzoyl]piperazine hydrochloride (0.69 g).

reactant | (2R)-2-(benzo[b]thiophen-3-yl-methyl)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]piperazine | 0.75 g | S1C2=C(C(=C1)C[C@H]1N(CCN(C1)CC1=CC=CC=C1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C=CC=C2 | C29H24F6N2OS
reactant | 1-chloroethyl chloroformate | 0.19 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (2R)-2-(benzo[b]thiophen-3-yl-methyl)-1-[3,5-bis(trifluoromethyl)benzoyl]piperazine hydrochloride | 0.69 g | Cl.S1C2=C(C(=C1)C[C@H]1N(CCNC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C=CC=C2 | InChI=1S/C22H18F6N2OS.ClH/c23-21(24,25)15-7-13(8-16(10-15)22(26,27)28)20(31)30-6-5-29-11-17(30)9-14-12-32-19-4-2-1-3-18(14)19;/h1-4,7-8,10,12,17,29H,5-6,9,11H2;1H/t17-;/m1./s1
